US06756395B2
A mixture of N-(4-cyanomethyl-benzofuran-7-yl)-methanesulfonamide (1.0 g, 4.0 mmole), ethylene diamine (8 mL, 119.7 mmoles), and carbon disulfide (one drop) was microwaved at 140° C. for 30 minutes in a Smith creator™. The reaction mixture was transferred into a large beaker (1 L) and the reaction vessel was rinsed with methanol (5 mL). Ether (600 mL) was added to the reaction mixture and insoluble material settled at the bottom of the container. The ether solution was removed by decantation. The residue was purified by flash column chromatography over silica gel eluting with 8% methanol in dichloromethane with 0.1% concentrated ammonium hydroxide to give N-[4-(4,5-dihydro-1H-imidazol-2-ylmethyl)-benzofuran-7-yl]-methanesulfonamide as a solid (1.1 g, 85%).

reactant | N-(4-cyanomethyl-benzofuran-7-yl)-methanesulfonamide | 4.0 mmole, 1.0 g | C(#N)CC1=CC=C(C2=C1C=CO2)NS(=O)(=O)C | C11H10N2O3S
reactant | ethylene diamine | 119.7 mmoles, 8 mL | C(CN)N | C2H8N2
catalyst | carbon disulfide | one drop | C(=S)=S | CS2
product | N-[4-(4,5-dihydro-1H-imidazol-2-ylmethyl)-benzofuran-7-yl]-methanesulfonamide | 1.1 g, 85% | N1C(=NCC1)CC1=CC=C(C2=C1C=CO2)NS(=O)(=O)C | C13H15N3O3S
